Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PE
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms ___ is an ___ with hx of breast ca in remission ___ yrs, hx 
of varicose veins/chronic venous insufficiency s/p R GSV RFA 
___, complicated by thrombosis extending into the common 
femoral vein, now presenting with PE.  Following her surgery and 
DVT in ___ she completed a ___ m course of Xarelto.  She followed 
up in ___ clinic on ___ and at that time was found to have 
persistent thrombus in the R common femoral vein on routine f/u 
US.  She was therefore restarted on Xarelto however did not fill 
the prescription until yesterday.  She presented to her PCP 
today with 4 days of right sided, pleuritic R-sided chest pain 
without SOB, +splinting, not improved with tylenol, improved 
with ibuprofen.  Her PCP ordered ___ CTA which showed PE, was 
therefore referred to the ED for further management.  Denies 
back pain, abd pain, n/v.  Pain is not exertional.  

In the ED, initial vitals were: 98.4 92 148/80 17 98% RA.  Labs 
were notable for nl trop, bnp.  INR was 1.3.  UA with leuks, 
bacteria.  CTA showed extensive pulm emboli. Bedside US was 
performed and was without evidence of RH strain.  CT head, which 
was ordered to r/o mass prior to starting heparin, showed no 
acute process.  She did not have an O2 requirement and was HD 
stable.  She was started on heparin drip and admitted to 
medicine for further management.

On the floor, she has no new complaints, specifically denies 
dysuria/frequency.  Pain perists on R side, worse with movement, 
no SOB. No fevers.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. 10 pt ros otherwise 
negative.
 
Past Medical History:
PAST MEDICAL HISTORY:
OSTEOPOROSIS 
BREAST CANCER completed course of anastrazole, cancer free x ___ 
yrs
MELANOMA 
HYPERTENSION 

Surgical History:
VEIN REMOVAL ___ 
MELONOMA REMOVAL ___ 
EYE SURGERY ___ 
PARTIAL MASTECTOMY ___ 
WISDOM TEETH EXTRACTION ___ 
TONSILLECTOMY ___ 
ADENOIDECTOMY ___ 
 
Social History:
___
Family History:
Mother MOTOR VEHICLE ACCIDENT 
Father DIABETES TYPE ___ 
MGM BREAST CANCER 

 
Physical Exam:
ADMISSION EXAM:
Vitals: 99.9 ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Splinting with respirations, clear to auscultation 
bilaterally, no wheezes, rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
ADMISSION LABS:
___ 03:05PM BLOOD WBC-8.2 RBC-4.40 Hgb-14.5 Hct-45.6* 
MCV-104* MCH-33.0* MCHC-31.8* RDW-14.1 RDWSD-54.4* Plt ___
___ 08:55PM BLOOD Neuts-79.3* Lymphs-10.0* Monos-8.6 
Eos-1.1 Baso-0.4 Im ___ AbsNeut-6.75* AbsLymp-0.85* 
AbsMono-0.73 AbsEos-0.09 AbsBaso-0.03
___ 03:05PM BLOOD ___
___ 03:05PM BLOOD UreaN-23* Creat-0.8 Na-141 K-4.7 Cl-98 
HCO3-27 AnGap-16
___ 03:05PM BLOOD ALT-10 AST-16
___ 08:55PM BLOOD cTropnT-<0.01
___ 08:55PM BLOOD proBNP-468

CXR - IMPRESSION: 
Probable trace right pleural effusion with small right basilar 
opacity very
likely due to minor atelectasis.

CTA CHEST - IMPRESSION: 
Extensive right predominant pulmonary embolism with potentially 
developing
peripheral infarcts and the presence of a small right pleural 
effusion.  No
evidence of right heart strain.  Moderate centrilobular 
pulmonary emphysema.

CT HEAD - IMPRESSION:
1. No acute intracranial hemorrhage.  No acute large territorial 
infarction or
evidence of acute intracranial pathology.
 
Brief Hospital Course:
 ___ y/o F with PMHx of breast CA in remission, melanoma, HTN, as 
well as varicose veins / venous insufficieny, c/b RLE DVT s/p ~1 
month course of rivaroxaban, who presents with R-sided pleuritic 
CP and CTA showing large PE.

# DVT/PE: The patient presented with pleuritic chest pain in the 
setting of known DVT, with CTA showing large PE. There was 
initial concern for Xarelto failure. However, on further review 
of history, it appears that she was not fully treated for DVT 
(it appears that she was only on Xarelto for ~1 month, and has 
been off for almost 3 weeks at this point). CTA without evidence 
of R heart strain, and Tn/BNP WNL. Hematology was consulted and 
recommended reloading with Rivaroxaban, with plans for at least 
3 months of treatment (final course to be determined by them in 
outpatient f/u).

# HTN: HCTZ held initially in the setting of PE,

TRANSITIONAL ISSUES
[ ] HELD hctz on discharge due to SBP in ___. consider 
restarting at outpatient follow up
[ ] appointments made with hematology regarding treatment of 
DVT. (final course to be determined by them in outpatient f/u).

>30 min spent on discharge planning including face to face time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Rivaroxaban 20 mg PO DAILY 
3. Dorzolamide 2% Ophth. Soln. Dose is Unknown  BOTH EYES 
Frequency is Unknown 
4. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
unknown 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Vitamin E Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Dorzolamide 2% Ophth. Soln. ___ DROP BOTH EYES BID  
2.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablet(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Vitamin E 1000 UNIT PO DAILY  
5.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
unknown  

HOLD THE FOLLOWING:
6.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DVT/PE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital with a blood clot in your lungs. 
You were treated with IV medications to thin your blood. 
Ultimately, it was felt that this was related to your short 
course of Rivaroxaban, rather than failure of the Rivaroxaban to 
work. You were restarted on Rivaroxaban prior to discharge.
 
Followup Instructions:
___